US08202885B2
50 mg of rac-(1R*,2R*,4R*)-2-(2-methylamino-ethyl)-5-phenyl-bicyclo[2.2.2]oct-5-en-2-ol were dissolved in DCM/AcOH. 46 mg of 3-methoxy-2-methoxymethyl-2-methyl-N-(3-oxo-propyl)-propionamide and 50 mg of sodium cyanoborohydride were added. The reaction mixture was stirred for 3 days at room temperature, quenched with sat.-NaHCO3 and extracted with DCM. The organic phase was washed with brine, dried over anh. Na2SO4 and concentrated in vacuo. The resulting crude material was purified by CC using EtOAc/MeOH/NEt3 90/10/1 as eluant to yield 49 mg of rac-N-(3-{[2-((1R*,2R*,4R*)-2-hydroxy-5-phenyl-bicyclo[2.2.2]oct-5-en-2-yl)-ethyl]-methyl-amino}-propyl)-3-methoxy-2-methoxymethyl-2-methyl-propionamide as a yellow oil.

reactant | rac-(1R*,2R*,4R*)-2-(2-methylamino-ethyl)-5-phenyl-bicyclo[2.2.2]oct-5-en-2-ol | 50 mg | CNCCC1(C2C=C(C(C1)CC2)C2=CC=CC=C2)O | C17H23NO
reactant | 3-methoxy-2-methoxymethyl-2-methyl-N-(3-oxo-propyl)-propionamide | 46 mg | COCC(C(=O)NCCC=O)(C)COC | C10H19NO4
reactant | sodium cyanoborohydride | 50 mg | C(#N)[BH3-].[Na+]
solvent | DCM AcOH | C(Cl)Cl.CC(=O)O
product | rac-N-(3-{[2-((1R*,2R*,4R*)-2-hydroxy-5-phenyl-bicyclo[2.2.2]oct-5-en-2-yl)-ethyl]-methyl-amino}-propyl)-3-methoxy-2-methoxymethyl-2-methyl-propionamide | 49 mg | O[C@@]1([C@H]2C=C([C@@H](C1)CC2)C2=CC=CC=C2)CCN(CCCNC(C(COC)(C)COC)=O)C | C27H42N2O4
